US07105531B2
4-(2,4-Dichloroanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile
A mixture of 178.2 mg (1.1 mmol) of 2,4-dichloroaniline and 44.0 mg (1.1 mmol) of sodium hydride in anhydrous DMF is stirred at room temperature for 0.5 hours. To the mixture is added 149.4 mg (0.5 mmol) of 4-chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile. The resulting mixture is heated at 50–60° C. for 1 hour. After cooling, the mixture is diluted with water and extracted with ethyl acetate. The organic phase is washed with brine and dried over sodium sulfate. Removal of the solvent yields a dark residue which is purified on preparative TLC (developing solvent: 97:3 methylene chloride/methanol), giving a yellow foam. Trituration of the foam with diethyl ether containing several drops of methanol yields 126.1 mg (59.5%) of the product as a yellow solid, mp 271–273° C.

reactant | 2,4-dichloroaniline | 1.1 mmol, 178.2 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | sodium hydride | 1.1 mmol, 44.0 mg | [H-].[Na+]
reactant | 4-chloro-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 0.5 mmol, 149.4 mg | ClC1=C(C=NC2=CC3=C(C=C12)C=C(C(=C3)OC)OC)C#N | C16H11ClN2O2
reactant | methanol | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | diethyl ether | several drops | C(C)OCC | C4H10O
product | 4-(2,4-Dichloroanilino)-7,8-dimethoxybenzo[g]quinoline-3-carbonitrile | 126.1 mg, 59.5% | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=C(C(=C4)OC)OC)C#N)C=CC(=C1)Cl | C22H15Cl2N3O2
